US04871730
Mesyl chloride (0.66 ml) and potassium carbonate (1.38 g) were added to a solution of benzhydryl 7-formamido-3-hydroxy-3-cephem-4-carboxylate (2.05 g) in N,N-dimethylformamide (6 ml) at -30° C. The mixture was stirred at -30°°C. for 30 minutes. Mesyl chloride (0.4 ml) was added to the mixture. The reaction mixture was stirred at -30°C for 20 minutes, poured into ice-water and extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate and filtered, and the filtrate was evaporated in vacuo. The residue was dissolved in a small amount of ethyl acetate and the mixture was subjected to column chromatography on silica gel and eluted with a mixture of benzene and ethyl acetate (1:1). The eluent was evaporated in vacuo. The residue was triturated with diisopropyl ether to give benzhydryl 7-formamido-3-mesyloxy-3-cephem-4-carboxylate (0.85 g).

reactant | Mesyl chloride | 0.66 ml | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzhydryl 7-formamido-3-hydroxy-3-cephem-4-carboxylate | 2.05 g | C(=O)NC1[C@@H]2N(C(=C(CS2)O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C21H18N2O5S
reactant | Mesyl chloride | 0.4 ml | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | benzhydryl 7-formamido-3-mesyloxy-3-cephem-4-carboxylate | 0.85 g | C(=O)NC1[C@@H]2N(C(=C(CS2)OS(=O)(=O)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C22H20N2O7S2
